* C:\Users\David\Desktop\UTN\4°\TC2\UTN_BA_TC2\TS2\TS2_LTSpice.asc
XU1 N001 0 N003 opamp Aol=100K GBW=10Meg
XU2 0 N006 N002 opamp Aol=100K GBW=10Meg
XU3 0 N005 N004 opamp Aol=100K GBW=10Meg
R4 N006 N003 10k
R1 N001 N007 1k
C1 N003 N001 100µ
R2 N003 N001 27k
C2 N004 N006 100µ
R5 N005 N004 1k
R6 N002 N005 1k
R3 N002 N001 10k
V1 N007 0 AC 1
.include opamp.sub
.ac dec 1000 {0.01*f} {100*f}
* Vin
* Vo
.param f= 1/2*PI
.backanno
.end
